US06503949B1
1-(Bromocyclohexyl)-4-nitrobenzene (18.4 g, 64.8 mmol), lithium carbonate (5.3 g, 71.2 mmol), and lithium bromide (6.2 g, 71.2 mmol) were reacted together in DMF (100 mL) for 2 hours at 160° C. The reaction mixture was cooled to 20° C., diluted with ethyl acetate (500 mL), and washed with water (300 mL). The aqueous phase was extracted with ethyl acetate (200 mL) and the combined organic phases were washed with water (3×150 mL), dried over MgSO4 and concentrated in vacuo. The residue was purified on silica (350 g) using ethyl acetate and heptane (1:9) as eluent to give 11.7 g of 1-cyclohex-1-enyl-4-nitrobenzene.

reactant | 1-(Bromocyclohexyl)-4-nitrobenzene | 64.8 mmol, 18.4 g | BrC1(CCCCC1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H14BrNO2
reactant | lithium carbonate | 71.2 mmol, 5.3 g | C([O-])([O-])=O.[Li+].[Li+]
reactant | lithium bromide | 71.2 mmol, 6.2 g | [Br-].[Li+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | 1-cyclohex-1-enyl-4-nitrobenzene | 11.7 g | C1(=CCCCC1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H13NO2
